US07569578B2
(±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(6-methylpyridin-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
A microwave tube was charged with (±)-N-(1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide (11 mg, 0.0187 mmol, 1.0 equiv), Pd(PPh3)4 (2 mg, 0.1 equiv) and anhydrous tetrahydrofuran (0.5 mL) under nitrogen. ZnMeCl (2.0 M in tetrahydrofuran, 0.12 mL, 0.24 mmol) was added via syringe resulting in gas evolution. The vial was sealed and heated by microwave at 110° C. for 4 h. Tetrahydrofuran was removed in vacuo and the residue was partitioned between ethyl acetate and concentrated ammonium hydroxide solution. The organic layer was separated and washed with brine, dried and concentrated. Flash column chromatography (10% methanol/methylene chloride) afforded the desired product (9.2 mg, 94%) as a white powder. MS (ESI) [M+H]+=524. 1H-NMR (400 MHz, CDCl3) δ 7.91 (s, 1H), 7.33 (br., 1H), 7.22-6.80 (m, 7H), 6.65 (d, J=8.0 Hz, 1H), 6.59 (br., 1H), 6.20 (br., 1H), 5.20-5.08 (m, 1H), 4.62-4.48 (m, 1H), 4.22 (s, 2H), 4.20-4.03 (m, 2H), 3.40-3.28 (m, 1H), 3.10-2.97 (m, 1H), 2.97-2.78 (m, 2H), 2.54 (s, 3H), 2.45 (s, 3H), 1.95-1.50 (m, 5H). HPLC tR=1.11 min.

reactant | (±)-N-(1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 0.0187 mmol, 11 mg, 1.0 equiv | BrC1=CC=CC(=N1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C29H30BrN7O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
catalyst | Pd(PPh3)4 | 2 mg, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(6-methylpyridin-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 9.2 mg, 94% | CC=1C=C(C=C2C=NNC12)CC(C1=NC(=CC=C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C30H33N7O2
